US07982071B2
Oxazolidinone cleavage of (R)-4-benzyl-3-((S)-2-((R)-(3-(cyclohexylmethoxy)phenyl)(trimethylsilyloxy)methyl)butanoyl)oxazolidin-2-one following the method described in Example 45 gave (R)-2-((R)-(3-(cyclohexylmethoxy)phenyl)-(trimethylsilyloxy)methyl)butan-1-ol as colorless oil. Yield (0.273 g, 21%). 1H NMR (400 MHz, DMSO-d6) δ 7.17 (t, J=7.6 Hz, 1H), 6.73-6.80 (m, 3H), 4.64 (d, J=6.5 Hz, 1H), 4.19 (t, J=5.1 Hz, 1H), 3.41-3.47 (m, 1H), 3.32-3.37 (m, 1H), 1.58-1.79 (m, 6H), 1.48 (m, 1H), 0.99-1.26 (m, 7H), 0.76 (t, J=7.6 Hz, 3H), −0.06 (s, 9H).

reactant | Oxazolidinone | O1C(NCC1)=O | C3H5NO2
reactant | (R)-4-benzyl-3-((S)-2-((R)-(3-(cyclohexylmethoxy)phenyl)(trimethylsilyloxy)methyl)butanoyl)oxazolidin-2-one | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC)[C@@H](O[Si](C)(C)C)C1=CC(=CC=C1)OCC1CCCCC1)=O | C31H43NO5Si
product | (R)-2-((R)-(3-(cyclohexylmethoxy)phenyl)-(trimethylsilyloxy)methyl)butan-1-ol | C1(CCCCC1)COC=1C=C(C=CC1)[C@@H]([C@@H](CO)CC)O[Si](C)(C)C | C21H36O3Si
